US04322346
Preparation of 1-(3,4,5-trimethoxyphenyl)-4-methyl-5-ethyl-7,8-dimethoxy-5H-2,3-benzodiazepine
1.40 g (3.36 mmoles) of 2-(1-ethylacetonyl)-3',4,4',5,5'-pentamethoxybenzophenone are dissolved in 5.4 ml of isopropanol, and 0.175 ml of concentrated sulfuric acid are added dropwise to the solution. The reaction mixture is heated to boiling, stirred at this temperature for one hour, thereafter the mixture is cooled to 60° C. and 0.41 ml (8 mmoles) of 98% hydrazine hydrate are added. The resulting mixture is stirred for a further hour. 0.154 g of sodium hydrocarbonate are added in portions to the mixture, the mixture is heated to boiling, decolorized with charcoal, filtered, the filtrate is evaporated, and the residue is passed onto a filter with a total amount of 25 ml of water. 0.835 g (60.5%) of the title compound are obtained; m.p.: 152°-155° C. When recrystallized from a small amount of isopropanol the product melts at 160°-162° C. C23H28N2O5 =412.5.

reactant | 2-(1-ethylacetonyl)-3',4,4',5,5'-pentamethoxybenzophenone | 3.36 mmoles, 1.40 g | C(C)C(C(=O)C)C1=C(C(=O)C2=CC(=C(C(=C2)OC)OC)OC)C=C(C(=C1)OC)OC | C23H28O7
reactant | sulfuric acid | 0.175 ml | S(O)(O)(=O)=O | H2O4S
reactant | hydrazine hydrate | 8 mmoles, 0.41 ml | O.NN
reactant | sodium hydrocarbonate | 0.154 g | C(=O)(O)[O-].[Na+]
reactant | charcoal | C | CH4
solvent | isopropanol | 5.4 ml | C(C)(C)O | C3H8O
product | 1-(3,4,5-trimethoxyphenyl)-4-methyl-5-ethyl-7,8-dimethoxy-5H-2,3-benzodiazepine | 0.835 g, 60.5% | COC=1C=C(C=C(C1OC)OC)C1=NN=C(C(C2=C1C=C(C(=C2)OC)OC)CC)C | C23H28N2O5
